US08980925B2
1-tetradecyloxy-2,3-dimethylbenzene (A1)
The product was generated via general protocol A using 1-bromotetradecane (45.0 mL, 147.9 mmol), 2,3-dimethylphenol (20.15 g, 163.3 mmol), K2CO3 (81.76 g, 591.6 mmol) and CH3CN (200 mL). Yielded 36.6 g (77.7%) of a brown liquid. 1H NMR (CDCl3, 400 MHz) δ: 7.03 (t, 3J=7.8 Hz, 1H, Ar—H), 6.76 (d, 3J=7.4 Hz, 1H, Ar—H), 6.70 (d, 3J=8.1 Hz, 1H, Ar—H), 3.93 (t, 3J=6.5, 2H, O—CH2), 2.27 (s, 3H, Ar—CH3), 2.16 (s, 3H, Ar—CH3), 1.79 (p, 3J=6.9, 2H, O—CH2—CH2), 1.48 (p, 3J=7.1, 2H, O—CH2—CH2—CH2), 1.27 (m, 22H), 0.88 (t, 3J=6.3, 3H, CH2—CH3). 13C NMR (CDCl3, 100 MHz) δ: 157.20, 137.86, 125.84, 125.33, 122.08, 108.98, 68.23, 32.07, 29.86, 29.83, 29.78, 29.61, 29.58, 29.54, 26.33, 22.88, 20.17, 14.24, 11.70.

reactant | 1-bromotetradecane | 147.9 mmol, 45.0 mL | BrCCCCCCCCCCCCCC | C14H29Br
reactant | 2,3-dimethylphenol | 163.3 mmol, 20.15 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | K2CO3 | 591.6 mmol, 81.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 1-tetradecyloxy-2,3-dimethylbenzene | 36.6 g, 77.7% | C(CCCCCCCCCCCCC)OC1=C(C(=CC=C1)C)C | C22H38O
